US08168784B2
reacting the 2-fluorobenzenesulfonyl fluoride, Ruppert's reagent (CH3SiCF3), and tris(dimethylamino)sulfonium difluorotrimethylsilicate to provide 1-fluoro-2-((trifluoromethyl)sulfonyl)benzene and isolating or not isolating the 1-fluoro-2-((trifluoromethyl)sulfonyl)benzene;

reactant | 2-fluorobenzenesulfonyl fluoride | FC1=C(C=CC=C1)S(=O)(=O)F | C6H4F2O2S
reactant | Ruppert's reagent | C[Si](C)(C)C(F)(F)F | C4H9F3Si
product | 1-fluoro-2-((trifluoromethyl)sulfonyl)benzene | FC1=C(C=CC=C1)S(=O)(=O)C(F)(F)F | C7H4F4O2S
